US04240820
21.2 g (0.21 mole) of triethylamine were first added to a suspension of 39.6 g (0.2 mole) of 2-amino-3-aminocarbonyl-4-tert.-butyl-thiophene in 300 ml of toluene, and 16.5 g (0.21 mole) of acetyl chloride were then added dropwise. After the exothermic reaction had ended, the mixture was worked up by filtering off the solid product and washing it with water. 38.6 g of 2-acetylamino-3-aminocarbonyl-4-tert.-butyl-thiophene of melting point 251° C. were obtained in this manner.

reactant | triethylamine | 0.21 mole, 21.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-3-aminocarbonyl-4-tert.-butyl-thiophene | 0.2 mole, 39.6 g | NC=1SC=C(C1C(=O)N)C(C)(C)C | C9H14N2OS
reactant | acetyl chloride | 0.21 mole, 16.5 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetylamino-3-aminocarbonyl-4-tert.-butyl-thiophene | 38.6 g | C(C)(=O)NC=1SC=C(C1C(=O)N)C(C)(C)C | C11H16N2O2S
